US08609731B2
5-[(S)-1-(Tetrahydrofuran-2-yl)methoxy]pyridine-2-carboxylic acid ((S)-6-azepan-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-yl)amide
According to method F, 5-hydroxypyridine-2-carboxylic acid ((S)-6-azepan-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-yl)amide was alkylated with methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester (DMF, 12 h, 80° C.). The product was thus obtained with the molecular weight of 463.63 (C28H37N3O3); MS (ESI): 464 (M+H+).

reactant | 5-hydroxypyridine-2-carboxylic acid ((S)-6-azepan-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-yl)amide | N1(CCCCCC1)CC=1C=C2CC[C@@H](CC2=CC1)NC(=O)C1=NC=C(C=C1)O | C23H29N3O2
reactant | methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester | O1[C@@H](CCC1)COS(=O)(=O)C | C6H12O4S
product | 5-[(S)-1-(Tetrahydrofuran-2-yl)methoxy]pyridine-2-carboxylic acid ((S)-6-azepan-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-yl)amide | N1(CCCCCC1)CC=1C=C2CC[C@@H](CC2=CC1)NC(=O)C1=NC=C(C=C1)OC[C@H]1OCCC1 | C28H37N3O3
